US03957783
To a mixture of 62 g of 2-amino-(o-chlorobenzoyl)-4-methylthiophene, 62 g of pyridine and 2170 ml of anhydrous ether is added dropwise 62 g of acetyl chloride. The the reaction mixture is stirred under reflux for 4 hours and 30 minutes. After cooling, the reaction mixture is poured into water. The ether layer is separated and washed with water, and dried over sodium sulfate. The solvent is removed under reduced pressure to give an oily residure, which is crystallized from ethanol to give 2-acetylamino-3-(o-chlorobenzoyl)-4-methylthiophene having a melting point of 148° - 149°C.

reactant | 2-amino-(o-chlorobenzoyl)-4-methylthiophene | 62 g | NC=1SC=C(C1C(C1=C(C=CC=C1)Cl)=O)C | C12H10ClNOS
reactant | pyridine | 62 g | N1=CC=CC=C1 | C5H5N
reactant | ether | 2170 ml | CCOCC | C4H10O
reactant | acetyl chloride | 62 g | C(C)(=O)Cl | C2H3ClO
solvent | water | O | H2O
product | 2-acetylamino-3-(o-chlorobenzoyl)-4-methylthiophene | C(C)(=O)NC=1SC=C(C1C(C1=C(C=CC=C1)Cl)=O)C | C14H12ClNO2S
